Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Aspirin / Sulfa (Sulfonamides)
 
Attending: ___.
 
Chief Complaint:
s/p abdominal trauma -> abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo G3P0 at 15w6d GA got kneed in the abdomen by her sister 
during an argument last night.  Has been having lower abd pain 
ever since.  Pain was ___, now ___ with tylenol.  No VB.  No 
dizziness, no cp, no sob.  This was not a planned pregnancy but 
is desired.  FOB is her boyfriend.

 
Past Medical History:
PNC: EDC: ___
     Labs: O pos, Ab neg, RPR NR, RI, HepB SAg neg, HIV? (note 
           in OMR that she had this done at ___ - need to get 
           results)
     Issues: Hyperemesis -> Zofran

OB Hx: TAB x 2

GYN Hx: Denies abnl paps or STIs

PMH: Asthma

PSH: D&C x 2
 
Social History:
Lives at home with mother, sister, nephew.  Pt in ___ grade. 
Sister has since been asked to leave home, and has been at her 
cousin's home.  Pt's mother reports that sister will be moving 
out.  Denies T/E/D.

 
Physical Exam:
VITALS: 98.1   78   100/53   100% RA
GEN: NAD
HEART: RRR
LUNGS: CTAB
ABD: Soft, mild tenderness in lower quadrants, no R/G
PELVIC: No VB, os closed, no tenderness (per ED)
EXT: NT/NE
 
Pertinent Results:
___ 01:20AM   ___ 01:20AM   ___ PTT-25.4 ___
___ 01:20AM   PLT COUNT-309
___ 01:20AM   NEUTS-73.7* ___ MONOS-3.8 EOS-2.7 
BASOS-0.3
___ 01:20AM   WBC-11.7* RBC-3.23* HGB-10.9* HCT-30.7* 
MCV-95 MCH-33.7* MCHC-35.4* RDW-12.6
___ 01:20AM   ___
___ 02:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:00AM   ___ 08:00AM   ___ PTT-24.9 ___
___ 08:00AM   HCT-30.5*
 
Brief Hospital Course:
Pt was admitted for possible placental abruption per history of 
abdominal trauma and radiology report consistent with placental 
hematoma.  Pt's abominal pain improved and pt has not had any 
vaginal bleed.  On review of the ultrasound imaging with ___ 
attending, what was read as possible abruption was thought as 
placental lake.  

On final read of the ultrasound per radiology, this was 
confirmed: 

Ultrasound report - 
Transabdominal examination demonstrates a similar appearance of 
the anterior placenta when compared with the prior study. There 
is a hypoechoic area within the placenta measuring approximately 
3.3 x 1.9 cm, likely a venous lake. There is no evidence of 
placental abruption.  The fetus demonstrates normal cardiac 
activity. Tiny echoes within the amniotic fluid may reflect high 
protein content. 

Pt was seen by social work while in house and deemed to be safe 
to be discharged home.  

Given hct, coags, fibrinogen all wnl and stable, with improved 
abdominal pain and ultrasound without evidence of abruption, pt 
was discharged home with instruction to follow up at ___ as scheduled on ___.  She was also advised to follow 
up with social work at ___.  
 
Medications on Admission:
Pulmacord BID, Albuterol prn, Zofran prn
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed.  
3. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
4. Budesonide 0.5 mg/2 mL Suspension for Nebulization Sig: as 
directed per prescribing doctor ML ___ BID (2 times a 
day).  
5. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q6H (every 6 hours) as needed.  
6. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal trauma
 
Discharge Condition:
Good
 
Discharge Instructions:
Please follow up with Dr. ___ at ___ as 
scheduled on ___.  Please follow up at ___ with a 
Social Worker.  

Pelvic rest until further notice from your primary OB.  Please 
call your primary obstetrician if you have any vaginal bleeding, 
leak of fluid, contraction or abdominal pain.  Please call if 
you have any fever, chills or any other concerns that worry you. 
 
 
Followup Instructions:
___